US05652246
1-(2-Chloroethyl)-3-isopropenyl-2(3H)-benzimidazolone
200 mmol of 1-bromo-2-chloroethane and 55 mmol of potassium carbonate are added to 50 mmol of 1-isopropenyl-2(3H)-benzimidazolone in 150 ml of dimethylformamide. The whole mixture is kept stirring for 48 hours. It is then poured into ice-cold water and extracted with dichloromethane. The organic phases are washed with water, dried and evaporated. The residue is then taken up in ether. The ether phase is washed with 2N potassium hydroxide and then with water, dried and evaporated and leads to the expected product.

reactant | 1-bromo-2-chloroethane | 200 mmol | BrCCCl | C2H4BrCl
reactant | potassium carbonate | 55 mmol | C([O-])([O-])=O.[K+].[K+]
reactant | 1-isopropenyl-2(3H)-benzimidazolone | 50 mmol | C(=C)(C)N1C(NC2=C1C=CC=C2)=O | C10H10N2O
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
product | 1-(2-Chloroethyl)-3-isopropenyl-2(3H)-benzimidazolone | ClCCN1C(N(C2=C1C=CC=C2)C(=C)C)=O | C12H13ClN2O
